US07365231B2
2,2-Bis(4-(4-amino-3-hydroxyphenoxy)phenyl)hexafluoropropane was synthesized in a manner analogous to Example 2 from 2,2-bis(4-(3-hydroxy-4-nitrophenoxy)phenyl)hexafluoropropane. Yield: 81.7%; mp 178˜181° C.; IR (KBr): 3380, 3250, 1599, 1500 cm−1; MS (EI) m/z 550 (M+, 100); Elemental Anal. Calcd. for C27H20F6N2O4: C, 58.91; H, 3.64; N, 5.09. Found: C, 58.73; H, 3.72; N, 5.00.

reactant | 2,2-bis(4-(3-hydroxy-4-nitrophenoxy)phenyl)hexafluoropropane | OC=1C=C(OC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)C2=CC=C(C=C2)OC2=CC(=C(C=C2)[N+](=O)[O-])O)C=CC1[N+](=O)[O-] | C27H16F6N2O8
reactant | KBr | [K+].[Br-]
product | 2,2-Bis(4-(4-amino-3-hydroxyphenoxy)phenyl)hexafluoropropane | Yield: 81.7% | NC1=C(C=C(OC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)C2=CC=C(C=C2)OC2=CC(=C(C=C2)N)O)C=C1)O | C27H20F6N2O4
